US09447046B2
Preparation 63a: 6-(oxan-4-ylmethoxy)-1,2,3,4-tetrahydronaphthalen-1-one
To a suspension of 6-hydroxy-1-tetralone (2.0 g, 12.4 mmol), tetrahydropyran-4-methanol (1.7 g, 14.8 mmol) and triphenylphosphine (6.5 g, 24.7 mmol) in THF (40 mL) was added DEAD (4.3 g, 24.7 mmol) at 0° C. The reaction was stirred at rt overnight. The solution was concentrated and purified by silica gel chromatography (PE:EtOAc=12:1) to give 3.2 g (100%) of the title compound as a yellow oil. [M+H] Calc'd for C16H20O3, 261. Found, 261.

reactant | 6-hydroxy-1-tetralone | 12.4 mmol, 2.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | tetrahydropyran-4-methanol | 14.8 mmol, 1.7 g | O1CCC(CC1)CO | C6H12O2
reactant | triphenylphosphine | 24.7 mmol, 6.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 24.7 mmol, 4.3 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-(oxan-4-ylmethoxy)-1,2,3,4-tetrahydronaphthalen-1-one | 3.2 g, 100% | O1CCC(CC1)COC=1C=C2CCCC(C2=CC1)=O | C16H20O3
